US06342502B1
N-{3-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)thio]propyl}methanesulfonamide
5-[(3-Aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (50 mg) and triethylamine (100 μl) were dissolved in dichloromethane (5 ml) and then cooled in ice. Methanesulfonyl chloride (25 μl) was added dropwise and the solution was stirred for 1 h. Aqueous ammonia (dilute) was added and the phases were separated. The aqueous phase was extracted twice with dichloromethane, the organic phases were combined, dried, filtered and evaporated. Purification by HPLC (ethyl acetate:isohexane 20-100:80-0) followed by trituration with methanol gave the title compound (43 mg).

reactant | 5-[(3-Aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 50 mg | NCCCSC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C25H29N3O2S2
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 25 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonia | N | H3N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-{3-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)thio]propyl}methanesulfonamide | 43 mg | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)SCCCNS(=O)(=O)C)CC(C)C)=O | C26H31N3O4S3
